US07482365B2
(4-Fluoro-2-methyl-phenylamino)-acetic acid ethyl ester
A solution of ethyl glyoxalate (50% solution in toluene—40.8 mL) in toluene (180 mL) was heated to reflux for 1.5 hours under a Nitrogen atmosphere, in a flask equipped with a Dean Stark apparatus. Then, a solution of 4-fluoro-2-methyl-aniline (10 g) in dry toluene (20 mL) was slowly added. The mixture was heated to reflux for 3 hours, then it was concentrated in vacuo. The residue was purified by flash chromatography (toluene/CH/AcOEt 4:4:2) to give the title compound (13.06 g) as a yellow oil.

reactant | ethyl glyoxalate | 40.8 mL | C(C=O)(=O)OCC | C4H6O3
reactant | 4-fluoro-2-methyl-aniline | 10 g | FC1=CC(=C(N)C=C1)C | C7H8FN
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (4-Fluoro-2-methyl-phenylamino)-acetic acid ethyl ester | 13.06 g | C(C)OC(CNC1=C(C=C(C=C1)F)C)=O | C11H14FNO2
